US07465795B2
4-amino-N-cyclobutyl-8-(3,5-dimethylphenyl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclobutyl-cinnoline-3-carboxamide (145 mg) and 3,5-dimethylphenyl boronic acid (169 mg) were reacted to afford the title compound (59 mg) as white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.31 (d, 1H), 8.38 (d, 1H), 7.78 (m, 2H), 7.28 (s, 2H), 7.06 (s, 1H), 4.52 (m, 1H), 2.35 (s, 6H), 2.26-2.10(m, 4H), 1.72-1.62 (m, 2H). MS APCI, m/z=347 (M+H).

reactant | 4-amino-8-bromo-N-cyclobutyl-cinnoline-3-carboxamide | 145 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CCC1 | C13H13BrN4O
reactant | 3,5-dimethylphenyl boronic acid | 169 mg | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
product | 4-amino-N-cyclobutyl-8-(3,5-dimethylphenyl)cinnoline-3-carboxamide | 59 mg | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=CC(=C1)C)C)C(=O)NC1CCC1 | C21H22N4O
